US06884821B1
0.58 g of 5-(3-ethoxy-2-ethoxy-3-oxopropyl)-2-methoxybenzoic acid and 0.34 g of 4-(trifluoromethyl)benzylamine were dissolved in 7 ml N,N-dimethylformamide, and 0.30 ml diethyl cyanophosphonate and 0.27 ml triethylamine were added thereto under ice-cooling. The reaction mixture was stirred at room temperature for 16 hours, then poured into iced water and extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid and brine in this order, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (3:1), 0.64 g of ethyl 2-ethoxy-3-(4-methoxy-3-(([4-(trifluoromethyl)benzyl)amino)carbonyl)phenyl)propanoate was obtained.

reactant | 5-(3-ethoxy-2-ethoxy-3-oxopropyl)-2-methoxybenzoic acid | 0.58 g | C(C)OC(C(CC=1C=CC(=C(C(=O)O)C1)OC)OCC)=O | C15H20O6
reactant | 4-(trifluoromethyl)benzylamine | 0.34 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | diethyl cyanophosphonate | 0.30 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.27 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2-ethoxy-3-(4-methoxy-3-(([4-(trifluoromethyl)benzyl)amino)carbonyl)phenyl)propanoate | 0.64 g | C(C)OC(C(=O)OCC)CC1=CC(=C(C=C1)OC)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C23H26F3NO5
